US05110945
1-Azoniabicyclo[3.3.0]oct-1(5)-ene bromide
A solution of dicyclopropylmethanimine hydrobromide (1.00 g, 5.26 mmol) in 6.0 ml of dimethyl sulfoxide was heated with stirring at 100° C. for 1 hour. The solvent was distilled out in vacuo and of isobutyl alcohol (8 ml) was added to the residue. Precipitated crystals was obtained and dried in vacuo to afford 0.56 g (Yield: 56%) of the desired compound.

reactant | dicyclopropylmethanimine hydrobromide | 5.26 mmol, 1.00 g | Br.C1(CC1)C(=N)C1CC1
solvent | dimethyl sulfoxide | 6.0 ml | CS(=O)C | C2H6OS
product | 1-Azoniabicyclo[3.3.0]oct-1(5)-ene bromide | 0.56 g, Yield: 56% | [Br-].[N+]1=2CCCC2CCC1 | InChI=1S/C7H12N.BrH/c1-3-7-4-2-6-8(7)5-1;/h1-6H2;1H/q+1;/p-1
